US05155106
To 8.87 g of the thus produced 2-(4-methoxy-2-methoxymethoxybenzoylamino)thiazoline was added 200 ml of aqueous hydrochloric acid-methanol, and the mixture was heated under reflux for 15 minutes. The solvent was distilled off in evacuated atomosphere, and to the residue was added saturated aqueous solution of sodium bicarbonate. The mixture was extracted with chloroform, and the extract was dried over anhydrous sodium sulfate. The solvent was distilled off in evacuated atomosphere and the residue was recrystallized from benzene to produce 6.39 g of 2-(2-hydroxy-4-methoxybenzoylamino)thiazoline.

reactant | 2-(4-methoxy-2-methoxymethoxybenzoylamino)thiazoline | COC1=CC(=C(C(=O)NC=2SCCN2)C=C1)OCOC | C13H16N2O4S
solvent | hydrochloric acid methanol | 200 ml | Cl.CO
product | 2-(2-hydroxy-4-methoxybenzoylamino)thiazoline | 6.39 g | OC1=C(C(=O)NC=2SCCN2)C=CC(=C1)OC | C11H12N2O3S
